US07507726B2
N-{[(5R)-16-(Dimethylamino)-4-oxo-2,3,15,17,18-pentaazabicyclo[12.3.1]octadeca-1(18),10,14,16-tetraen-5-yl]methyl}-N-benzoxyformamide
To a solution of N-[(2R)-2-({2-[4-(3-buten-1-yl)-6-(dimethylamino)-1,3,5-triazin-2-yl]hydrazino}carbonyl)-7-octen-1-yl]-N-benzoxyformamide (280 mg, 0.566 mmol) in dichloromethane (225 mL, 0.0025M) at room temperature was added tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydro-imidazol-2-ylidene][benzylidene]ruthenium(IV) dichloride (2nd generation Grubbs catalyst, 48 mg, 0.057 mmol). The reaction mixture was stirred and heated to reflux for 48 hours, the solvent was evaporated in vacuo, and the residue was then purified by HPLC to afford the title compound as a white solid. MH+468.

reactant | N-[(2R)-2-({2-[4-(3-buten-1-yl)-6-(dimethylamino)-1,3,5-triazin-2-yl]hydrazino}carbonyl)-7-octen-1-yl]-N-benzoxyformamide | 0.566 mmol, 280 mg | C(CC=C)C1=NC(=NC(=N1)N(C)C)NNC(=O)[C@@H](CN(C=O)OCC1=CC=CC=C1)CCCCC=C | C26H37N7O3
solvent | dichloromethane | 0.0025M, 225 mL | ClCCl | CH2Cl2
catalyst | tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydro-imidazol-2-ylidene][benzylidene]ruthenium(IV) dichloride | 0.057 mmol, 48 mg | CC1=CC(=C(C(=C1)C)N2CCN([CH-]2)C3=C(C=C(C=C3C)C)C)C.C1CCC(CC1)[PH+](C2CCCCC2)C3CCCCC3.C1=CC=C(C=C1)C=[Ru](Cl)Cl
product | N-{[(5R)-16-(Dimethylamino)-4-oxo-2,3,15,17,18-pentaazabicyclo[12.3.1]octadeca-1(18),10,14,16-tetraen-5-yl]methyl}-N-benzoxyformamide | CN(C=1N=C2CCC=CCCCC[C@@H](C(NNC(N1)=N2)=O)CN(C=O)OCC2=CC=CC=C2)C | C24H33N7O3
